US07208497B2
4-(1-Ethylpropyl)piperazine-1-carboxylic acid 4-methoxyphenyl ester
To a stirred mixture of 1-(1-ethylpropyl)piperazine (156 mg, 1.0 mmol) and dry DCM (10 ml) was added 4-methoxyphenyl chloroformate (190 mg, 1.0 mmol). The mixture was stirred overnight at room temperature and then diluted with DCM (50 ml). The reaction mixture was washed with 1 N NaOH (3×20 ml) and water (3×20 ml) and dried (MgSO4). The organic solution was concentrated to yield an oil that was dissolved in a 0.5 N HCl solution (30 ml). The acidic solution was washed with diethyl ether (2×20 ml) and 4 N NaOH was added until pH 11. The resulting mixture was extracted with ethyl acetate (2×20 ml) and the combined organic extracts were dried (MgSO4). The solvent was evaporated to give an oil that crystallized on standing. This afforded 185 mg (60%) of the title compound as a solid. M.p. 52–54° C.

reactant | 1-(1-ethylpropyl)piperazine | 1.0 mmol, 156 mg | C(C)C(CC)N1CCNCC1 | C9H20N2
reactant | 4-methoxyphenyl chloroformate | 1.0 mmol, 190 mg | ClC(=O)OC1=CC=C(C=C1)OC | C8H7ClO3
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.5 N, 30 ml | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethylpropyl)piperazine-1-carboxylic acid 4-methoxyphenyl ester | COC1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(CC)CC | C17H26N2O3
